US08957068B2
To (S)-(4-(1-aminoethyl)-2-fluorophenyl)(piperidin-1-yl)methanone (0.019 g, 0.076 mmol) was added (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (0.028 g, 0.114 mmol), NMP (0.5 ml) and Hunig's Base (0.033 ml, 0.190 mmol). The reaction was heated at 105-110° C. for 16 hours or until done by LCMS. The reaction was let cool, 0.5 ml of NMP was added, filtered, purified by prep LC and lyophilized to give 4.0 mg of (S)-3-(2-((S)-1-(3-fluoro-4-(piperidine-1-carbonyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one as TFA Salt. LCMS m/z 456.1 (M+H)+, rt 0.74 min.

reactant | (S)-(4-(1-aminoethyl)-2-fluorophenyl)(piperidin-1-yl)methanone | 0.076 mmol, 0.019 g | N[C@@H](C)C1=CC(=C(C=C1)C(=O)N1CCCCC1)F | C14H19FN2O
reactant | (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.114 mmol, 0.028 g | ClC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12ClN3O2
reactant | Hunig's Base | 0.190 mmol, 0.033 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
product | (S)-3-(2-((S)-1-(3-fluoro-4-(piperidine-1-carbonyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 4.0 mg | FC=1C=C(C=CC1C(=O)N1CCCCC1)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C24H30FN5O3
